US05514810
a) 1,7-Bis(benzyloxycarbonyl)-1,4,7-triazaheptane
4.87 g (47.2 mmol) of 1,4,7-triazaheptane as well as 5 ml of triethylamine are dissolved in 100 ml of dichloroethane. The solution of 15.22 g (94.4 mmol) of cyanobenzyl formate in 200 ml of dichloromethane is instilled in this solution within 3 hours. It is allowed to stir for 2 more days at room temperature, then evaporated to dryness in a vacuum, taken up in diethyl ether and washed with sodium bicarbonate solution. The ether solution is dried on sodium sulfate and evaporated to dryness in a vacuum. The residue is crystallized from a little ethanol. The title compound crystallizes into white needles. Yield: 11.46 g (65.7% of theory) Melting point: 73°-75° C. Elementary analysis: Cld: C 64.67 H 6.78 N 11.31 Fnd: C 64.82 H 6.64 N 11.28

reactant | 1,4,7-triazaheptane | 47.2 mmol, 4.87 g | NCCNCCN | C4H13N3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | cyanobenzyl formate | 94.4 mmol, 15.22 g | C(=O)OC(C1=CC=CC=C1)C#N | C9H7NO2
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1,7-Bis(benzyloxycarbonyl)-1,4,7-triazaheptane | C(C1=CC=CC=C1)OC(=O)NCCNCCNC(=O)OCC1=CC=CC=C1 | C20H25N3O4
